US04772600
2-(4-Chlorophenyl)-3-[2-oxo-2-(1-piperidinyl)ethyl]-3H-imidazo[4,5-b]pyridine
Under nitrogen bubbling, a mixture of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (4.0 g, 0.014 mole) and 1,1'-carbonyldiimidazole (2.27 g, 0.014 mole), in 150 ml of tetrahydrofuran was stirred at room temperature for 3 hours. Then, under nitrogen atmosphere, piperidine (1.31 g, 0.015 mole) was added and the reaction mixture was allowed to stir at room temperature overnight. The tetrahydrofuran was evaporated to give a solid which was triturated with water and dried under high vacuum over the weekend at 50° C. The solid was recrystallized from isopropyl alcohol and refrigerated overnight. The crystalline material was collected by filtration, washed with cold isopropyl alcohol, and dried under high vacuum at 50° C. overnight to give 2.95 g (59%) of title compound, mp 176°-178° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.014 mole, 4.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.014 mole, 2.27 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | piperidine | 0.015 mole, 1.31 g | N1CCCCC1 | C5H11N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-3-[2-oxo-2-(1-piperidinyl)ethyl]-3H-imidazo[4,5-b]pyridine | 2.95 g, 59% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(N1CCCCC1)=O | C19H19ClN4O
